US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.41 g) and {[4-(diethoxymethyl)phenyl]-methyl}(4-isopropylphenyl)amine (0.65 g) as starting materials. The obtained residue was dissolved in a mixed solvent (15 mL) of methanol:1 mol/L-hydrochloric acid (1:2) and heated under reflux for 3 hr. The reaction mixture was concentrated under reduced pressure and partitioned between water and ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography to give N-[(4-formylphenyl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.42 g).

reactant | 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.41 g | COC1=CC=C2CCCC(C2=C1)C(=O)O | C12H14O3
reactant | {[4-(diethoxymethyl)phenyl]-methyl}(4-isopropylphenyl)amine | 0.65 g | C(C)OC(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C)OCC | C21H29NO2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | N-[(4-formylphenyl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.42 g | C(=O)C1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)OC)C1=CC=C(C=C1)C(C)C | C29H31NO3
